US07378410B2
To a stirred solution of (R)-N-[(3S,6R)-6-(tert-butyl-dimethyl-silanyloxy)-2-oxo-1-pyridin-3-ylmethyl-azepan-3-yl]-2-[(4R,5R,6R)-6-((E)-3,3-dimethyl-but-1-enyl)-5-hydroxy-2,2-dimethyl-[1,3]dioxan-4-yl]-2-methoxy-acetamide (1.2 g, 1.9 mmol) at room temperature is added tetrabutylammonium fluoride (5.68 mL, 1 M THF, 5.68 mmol). After 2 h, the solution is evaporated and chromatographed on silica (95% CH2Cl2/5% CH3OH) to give 0.74 g (75.2%) of (R)-2-[(4R,5R,6R)-6-((E)-3,3-dimethyl-but-1-enyl)-5-hydroxy-2,2-dimethyl-[1,3]dioxan-4-yl]-N-((3S,6R)-6-hydroxy-2-oxo-1-pyridin-3-ylmethyl-azepan-3-yl)-2-methoxy-acetamide as a white solid. 1H NMR 300 MHz δ 8.52(m, 2H), 7.69 (m, 1H), 7.29 (m, 1H), 5.77 (d, 1H), 5.54(dd, 1H), 4.69 (m, 2H), 4.29 (m, 2H), 4.10 (m, 2H), 3.92 (d, 1H), 3.54 (m, 2H), 3.50 (s, 3H), 3.33 (m,2H), 2.15 (m, 1H), 2.00 (m, 1H), 1.90 (m, 1H), 1.67 (m, 3H), 1.46 (m, 4H), 1.04 (s, 9H), 1.00 (t, 2H); MS (ESI) 520.2 (M+H)+.

reactant | (R)-N-[(3S,6R)-6-(tert-butyl-dimethyl-silanyloxy)-2-oxo-1-pyridin-3-ylmethyl-azepan-3-yl]-2-[(4R,5R,6R)-6-((E)-3,3-dimethyl-but-1-enyl)-5-hydroxy-2,2-dimethyl-[1,3]dioxan-4-yl]-2-methoxy-acetamide | 1.9 mmol, 1.2 g | C(C)(C)(C)[Si](O[C@@H]1CC[C@@H](C(N(C1)CC=1C=NC=CC1)=O)NC([C@H](OC)[C@@H]1OC(O[C@@H]([C@H]1O)\C=C\C(C)(C)C)(C)C)=O)(C)C | C33H55N3O7Si
reactant | tetrabutylammonium fluoride | 5.68 mmol, 1 M, 5.68 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (R)-2-[(4R,5R,6R)-6-((E)-3,3-dimethyl-but-1-enyl)-5-hydroxy-2,2-dimethyl-[1,3]dioxan-4-yl]-N-((3S,6R)-6-hydroxy-2-oxo-1-pyridin-3-ylmethyl-azepan-3-yl)-2-methoxy-acetamide | 0.74 g, 75.2% | CC(/C=C/[C@@H]1[C@H]([C@@H](OC(O1)(C)C)[C@H](C(=O)N[C@@H]1C(N(C[C@@H](CC1)O)CC=1C=NC=CC1)=O)OC)O)(C)C | C27H41N3O7
